US05276150
1. Synthesis of 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one
2.76 g (20 mmol) of 1-pyridyl-2-propanone and 3.066 g (20 mmol) of 3-nitrobenzaldehyde were dissolved in benzene. To this solution, 0.29 g (2.0 mmol) of piperidinium acetate was added, and the mixture was refluxed with application of heat for 6 hours for dehydration. The reaction mixture was washed with water, and dried over anhydrous sodium sulfate. The benzene contained in the reaction mixture was distilled off under reduced pressure and the remaining reaction product was chromatographed on a silica gel column, whereby the captioned compound was obtained. The yield was 4.5 g (87.9%).

reactant | 1-pyridyl-2-propanone | 20 mmol, 2.76 g | N1=C(C=CC=C1)CC(C)=O | C8H9NO
reactant | 3-nitrobenzaldehyde | 20 mmol, 3.066 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidinium acetate | 2.0 mmol, 0.29 g | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=NC=C1)CC(C=C)=O | C15H12N2O3
